US07462624B2
Step A: 2-Amino-7-benzyl-1,7-dihydro-6H-purin-6-one
A mixture of 2-amino-9-[(1S,2R,3S,4S)-2,3-dihydroxy-4-(hydroxymethyl)-cyclopentyl]-1,9-dihydro-6H-purin-6-one (60.0 g, 0.213 mol) and benzyl bromide (60.9 mL, 0.512 mol) in DMSO (300 mL) was stirred at room temperature for 18 h. Concentrated HCl aqueous solution (150 mL) was added to the reaction mixture and stirring was continued for 45 min. The resulting mixture was poured into MeOH (1800 ml). The solution was neutralized with 2 M NaOH solution. The resulting white precipitate was collected by filtration, washed with water, and dried under vacuum to afford the product (48 g, 93.3%). LCMS calculated for C12H12N5O (M+H): 242.1; found: 242.1.

reactant | 2-amino-9-[(1S,2R,3S,4S)-2,3-dihydroxy-4-(hydroxymethyl)-cyclopentyl]-1,9-dihydro-6H-purin-6-one | 0.213 mol, 60.0 g | NC=1NC(C=2N=CN(C2N1)[C@@H]1[C@H]([C@H]([C@@H](C1)CO)O)O)=O | C11H15N5O4
reactant | benzyl bromide | 0.512 mol, 60.9 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | HCl | 150 mL | Cl | ClH
reactant | NaOH | 2 M | [OH-].[Na+]
solvent | DMSO | 300 mL | CS(=O)C | C2H6OS
solvent | MeOH | 1800 ml | CO | CH4O
product | 2-Amino-7-benzyl-1,7-dihydro-6H-purin-6-one | 48 g, 93.3% | NC=1NC(C=2N(C=NC2N1)CC1=CC=CC=C1)=O | C12H11N5O
